US08357711B2
4-(4-Chlorophenyl)-3-oxobutanenitrile
2 M of isopropylmagnesium chloride in THF (300 mL) was added to a −78° C. solution of cyanoacetic acid (28.3 g, 333 mmol) in anhydrous THF (600 mL, 7000 mmol). After 1 h, a solution of 4-chlorophenylacetic acid (20 g, 100 mmol) and N,N-carbonyldiimidazole (21.7 g, 134 mmol) in anhydrous THF (200 mL, 2000 mmol) was added. The reaction mixture was warmed to rt. After 16 h, the reaction mixture was poured into water (1 L, 60000 mmol). The mixture was adjusted to pH 4 with glacial AcOH. Gas evolution was evident during addition of the AcOH. The mixture was concentrated in vacuo to remove the THF (in 1 L portions). The product crystallized from the aqueous portions. The solid was collected by filtration, washing with water. Dried under vacuum to afford the product as a fluffy light orange-yellow solid (15.89 g, 60%).

reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | cyanoacetic acid | 333 mmol, 28.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-chlorophenylacetic acid | 100 mmol, 20 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | N,N-carbonyldiimidazole | 134 mmol, 21.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | 60000 mmol, 1 L | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 2000 mmol, 200 mL | C1CCOC1 | C4H8O
solvent | THF | 7000 mmol, 600 mL | C1CCOC1 | C4H8O
solvent | AcOH | CC(=O)O | C2H4O2
product | 4-(4-Chlorophenyl)-3-oxobutanenitrile | 15.89 g, 60% | ClC1=CC=C(C=C1)CC(CC#N)=O | C10H8ClNO
